* c:\users\hp\esim-workspace\pll\pll.cir

.include NMOS-180nm.lib
.include PMOS-180nm.lib
m11 net-_m11-pad1_ net-_m11-pad2_ net-_m11-pad3_ gnd CMOSN W=100u L=100u M=1
m12 net-_m11-pad3_ net-_c1-pad1_ gnd gnd CMOSN W=100u L=100u M=1
m14 net-_m13-pad3_ net-_m11-pad2_ net-_m11-pad1_ gnd CMOSP W=100u L=100u M=1
m18 net-_m17-pad3_ net-_m11-pad1_ net-_m15-pad1_ gnd CMOSP W=100u L=100u M=1
m15 net-_m15-pad1_ net-_m11-pad1_ net-_m15-pad3_ gnd CMOSN W=100u L=100u M=1
m16 net-_m15-pad3_ net-_c1-pad1_ gnd gnd CMOSN W=100u L=100u M=1
m22 net-_m21-pad3_ net-_m15-pad1_ vout net-_m19-pad3_ CMOSP W=100u L=100u M=1
m9 net-_m10-pad3_ net-_m3-pad1_ net-_m11-pad2_ gnd CMOSP W=100u L=100u M=1
m6 net-_m5-pad3_ vout net-_m3-pad1_ gnd CMOSP W=100u L=100u M=1
m20 vout net-_m15-pad1_ net-_m19-pad1_ net-_m19-pad3_ CMOSN W=100u L=100u M=1
m19 net-_m19-pad1_ net-_c1-pad1_ net-_m19-pad3_ ? CMOSN W=100u L=100u M=1
m7 net-_m11-pad2_ net-_m3-pad1_ net-_m7-pad3_ gnd CMOSN W=100u L=100u M=1
m8 net-_m7-pad3_ net-_c1-pad1_ gnd gnd CMOSN W=100u L=100u M=1
m3 net-_m3-pad1_ vout net-_m3-pad3_ gnd CMOSN W=100u L=100u M=1
m4 net-_m3-pad3_ net-_c1-pad1_ ? ? CMOSN W=100u L=100u M=1
m5 net-_m10-pad1_ net-_m1-pad1_ net-_m5-pad3_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m10 net-_m10-pad1_ net-_m1-pad1_ net-_m10-pad3_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m13 net-_m10-pad1_ net-_m1-pad1_ net-_m13-pad3_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m17 net-_m10-pad1_ net-_m1-pad1_ net-_m17-pad3_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m21 net-_m10-pad1_ net-_m1-pad1_ net-_m21-pad3_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m2 net-_m10-pad1_ net-_m1-pad1_ net-_m1-pad1_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m1 net-_m1-pad1_ net-_c1-pad1_ gnd gnd CMOSN W=100u L=100u M=1
v2 net-_m10-pad1_ gnd  dc 1
m26 vout vin ? net-_m24-pad4_ CMOSP W=100u L=100u M=1
m25 net-_m25-pad1_ vin gnd gnd CMOSN W=100u L=100u M=1
m24 vin vout net-_m23-pad1_ net-_m24-pad4_ CMOSP W=100u L=100u M=1
m23 net-_m23-pad1_ vout gnd gnd CMOSN W=100u L=100u M=1
m28 net-_m24-pad4_ net-_m25-pad1_ ? net-_m24-pad4_ CMOSP W=100u L=100u M=1
m30 net-_m24-pad4_ net-_m27-pad1_ net-_m29-pad1_ net-_m24-pad4_ CMOSP W=100u L=100u M=1
m27 net-_m27-pad1_ net-_m25-pad1_ ? ? CMOSN W=100u L=100u M=1
m29 net-_m29-pad1_ net-_m23-pad1_ gnd gnd CMOSN W=100u L=100u M=1
m32 net-_m24-pad4_ net-_m29-pad1_ net-_m31-pad1_ net-_m24-pad4_ CMOSP W=100u L=100u M=1
m31 net-_m31-pad1_ net-_m29-pad1_ net-_m31-pad3_ net-_m31-pad3_ CMOSN W=100u L=100u M=1
v3 net-_m24-pad4_ gnd  dc 1
v1  vin gnd pulse(0 1 0 0 0 1n 2n)
c1  net-_c1-pad1_ gnd 10p
r1  net-_m31-pad1_ net-_c1-pad1_ 300k
.tran 0.01e-09 100e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
