* C:\Users\LENOVO\OneDrive\Desktop\Phase_locked_loop\Hackathon\Hackathon.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 03-Oct-22 5:48:25 PM

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
SC7  Net-_SC10-Pad2_ Net-_SC5-Pad1_ Net-_SC5-Pad3_ Net-_SC5-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC8  Net-_SC10-Pad2_ Net-_SC1-Pad1_ GND GND sky130_fd_pr__nfet_01v8_lvt		
SC9  Net-_SC10-Pad1_ Net-_SC10-Pad2_ Net-_SC5-Pad3_ Net-_SC5-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC10  Net-_SC10-Pad1_ Net-_SC10-Pad2_ GND GND sky130_fd_pr__nfet_01v8_lvt		
SC13  Net-_SC13-Pad1_ Net-_SC11-Pad1_ Net-_SC11-Pad3_ Net-_SC11-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC15  Net-_SC14-Pad1_ out Net-_SC15-Pad3_ GND sky130_fd_pr__nfet_01v8_lvt		
SC14  Net-_SC14-Pad1_ out Net-_SC13-Pad1_ Net-_SC11-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC16  Net-_SC15-Pad3_ Net-_SC12-Pad2_ GND GND sky130_fd_pr__nfet_01v8_lvt		
SC17  Net-_SC17-Pad1_ Net-_SC11-Pad1_ Net-_SC11-Pad3_ Net-_SC11-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC18  Net-_SC18-Pad1_ Net-_SC14-Pad1_ Net-_SC17-Pad1_ Net-_SC11-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC19  Net-_SC18-Pad1_ Net-_SC14-Pad1_ Net-_SC19-Pad3_ GND sky130_fd_pr__nfet_01v8_lvt		
SC20  Net-_SC19-Pad3_ Net-_SC12-Pad2_ GND GND sky130_fd_pr__nfet_01v8_lvt		
SC24  Net-_SC23-Pad3_ Net-_SC12-Pad2_ GND GND sky130_fd_pr__nfet_01v8_lvt		
SC23  Net-_SC22-Pad1_ Net-_SC18-Pad1_ Net-_SC23-Pad3_ GND sky130_fd_pr__nfet_01v8_lvt		
SC22  Net-_SC22-Pad1_ Net-_SC18-Pad1_ Net-_SC21-Pad1_ Net-_SC11-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC21  Net-_SC21-Pad1_ Net-_SC11-Pad1_ Net-_SC11-Pad3_ Net-_SC11-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC25  Net-_SC25-Pad1_ Net-_SC11-Pad1_ Net-_SC11-Pad3_ Net-_SC11-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC26  Net-_SC26-Pad1_ Net-_SC26-Pad2_ Net-_SC25-Pad1_ Net-_SC11-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC27  Net-_SC26-Pad1_ Net-_SC26-Pad2_ Net-_SC27-Pad3_ GND sky130_fd_pr__nfet_01v8_lvt		
SC28  Net-_SC27-Pad3_ Net-_SC12-Pad2_ GND GND sky130_fd_pr__nfet_01v8_lvt		
SC32  Net-_SC31-Pad3_ Net-_SC12-Pad2_ GND GND sky130_fd_pr__nfet_01v8_lvt		
SC31  out Net-_SC26-Pad1_ Net-_SC31-Pad3_ GND sky130_fd_pr__nfet_01v8_lvt		
SC30  out Net-_SC26-Pad1_ ? Net-_SC11-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC29  ? Net-_SC11-Pad1_ Net-_SC11-Pad3_ Net-_SC11-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC11  Net-_SC11-Pad1_ Net-_SC11-Pad1_ Net-_SC11-Pad3_ Net-_SC11-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC12  Net-_SC11-Pad1_ Net-_SC12-Pad2_ GND GND sky130_fd_pr__nfet_01v8_lvt		
v2  Net-_SC5-Pad3_ GND DC		
v1  Net-_SC3-Pad2_ GND pulse		
scmode1  SKY130mode		
SC34  Net-_SC12-Pad2_ GND 10p		
SC33  Net-_SC10-Pad1_ Net-_SC12-Pad2_ 300k		
SC37  Net-_SC37-Pad1_ Net-_SC37-Pad2_ Net-_SC35-Pad2_ ? sky130_fd_pr__pfet_01v8_lvt		
SC38  Net-_SC37-Pad1_ Net-_SC37-Pad2_ GND GND sky130_fd_pr__nfet_01v8_lvt		
SC36  ? ? ? Net-_SC35-Pad1_ sky130_fd_pr__pfet_01v8_lvt		
SC35  Net-_SC35-Pad1_ Net-_SC35-Pad2_ GND GND sky130_fd_pr__nfet_01v8_lvt		
SC3  Net-_SC3-Pad1_ Net-_SC3-Pad2_ out Net-_SC1-Pad4_ sky130_fd_pr__pfet_01v8_lvt		
SC4  Net-_SC3-Pad1_ Net-_SC3-Pad2_ Net-_SC2-Pad3_ Net-_SC2-Pad3_ sky130_fd_pr__nfet_01v8_lvt		
SC1  Net-_SC1-Pad1_ out ? Net-_SC1-Pad4_ sky130_fd_pr__pfet_01v8_lvt		
SC2  Net-_SC1-Pad1_ out Net-_SC2-Pad3_ Net-_SC2-Pad3_ sky130_fd_pr__nfet_01v8_lvt		
v3  Net-_SC1-Pad4_ GND DC		
v4  ? GND DC		
SC5  Net-_SC5-Pad1_ ? Net-_SC5-Pad3_ Net-_SC5-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC6  Net-_SC5-Pad1_ ? GND GND sky130_fd_pr__nfet_01v8_lvt		

.end
