* c:\users\lenovo\onedrive\desktop\phase_locked_loop\hackathon\hackathon.cir

.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" 
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
xsc7 net-_sc10-pad2_ net-_sc5-pad1_ net-_sc5-pad3_ net-_sc5-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc8 net-_sc10-pad2_ net-_sc1-pad1_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc9 net-_sc10-pad1_ net-_sc10-pad2_ net-_sc5-pad3_ net-_sc5-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc10 net-_sc10-pad1_ net-_sc10-pad2_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc13 net-_sc13-pad1_ net-_sc11-pad1_ net-_sc11-pad3_ net-_sc11-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc15 net-_sc14-pad1_ out net-_sc15-pad3_ gnd sky130_fd_pr__nfet_01v8_lvt 
xsc14 net-_sc14-pad1_ out net-_sc13-pad1_ net-_sc11-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc16 net-_sc15-pad3_ net-_sc12-pad2_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc17 net-_sc17-pad1_ net-_sc11-pad1_ net-_sc11-pad3_ net-_sc11-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc18 net-_sc18-pad1_ net-_sc14-pad1_ net-_sc17-pad1_ net-_sc11-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc19 net-_sc18-pad1_ net-_sc14-pad1_ net-_sc19-pad3_ gnd sky130_fd_pr__nfet_01v8_lvt 
xsc20 net-_sc19-pad3_ net-_sc12-pad2_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc24 net-_sc23-pad3_ net-_sc12-pad2_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc23 net-_sc22-pad1_ net-_sc18-pad1_ net-_sc23-pad3_ gnd sky130_fd_pr__nfet_01v8_lvt 
xsc22 net-_sc22-pad1_ net-_sc18-pad1_ net-_sc21-pad1_ net-_sc11-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc21 net-_sc21-pad1_ net-_sc11-pad1_ net-_sc11-pad3_ net-_sc11-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc25 net-_sc25-pad1_ net-_sc11-pad1_ net-_sc11-pad3_ net-_sc11-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc26 net-_sc26-pad1_ net-_sc26-pad2_ net-_sc25-pad1_ net-_sc11-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc27 net-_sc26-pad1_ net-_sc26-pad2_ net-_sc27-pad3_ gnd sky130_fd_pr__nfet_01v8_lvt 
xsc28 net-_sc27-pad3_ net-_sc12-pad2_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc32 net-_sc31-pad3_ net-_sc12-pad2_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc31 out net-_sc26-pad1_ net-_sc31-pad3_ gnd sky130_fd_pr__nfet_01v8_lvt 
xsc30 out net-_sc26-pad1_ ? net-_sc11-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc29 ? net-_sc11-pad1_ net-_sc11-pad3_ net-_sc11-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc11 net-_sc11-pad1_ net-_sc11-pad1_ net-_sc11-pad3_ net-_sc11-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc12 net-_sc11-pad1_ net-_sc12-pad2_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
v2 net-_sc5-pad3_ gnd  dc 1
v1  net-_sc3-pad2_ gnd pulse(0 1 1m 1m 1m 1n 2n)
* s c m o d e
xsc34 net-_sc12-pad2_ gnd 10p 
xsc33 net-_sc10-pad1_ net-_sc12-pad2_ 300k 
xsc37 net-_sc37-pad1_ net-_sc37-pad2_ net-_sc35-pad2_ ? sky130_fd_pr__pfet_01v8_lvt 
xsc38 net-_sc37-pad1_ net-_sc37-pad2_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc36 ? ? ? net-_sc35-pad1_ sky130_fd_pr__pfet_01v8_lvt 
xsc35 net-_sc35-pad1_ net-_sc35-pad2_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc3 net-_sc3-pad1_ net-_sc3-pad2_ out net-_sc1-pad4_ sky130_fd_pr__pfet_01v8_lvt 
xsc4 net-_sc3-pad1_ net-_sc3-pad2_ net-_sc2-pad3_ net-_sc2-pad3_ sky130_fd_pr__nfet_01v8_lvt 
xsc1 net-_sc1-pad1_ out ? net-_sc1-pad4_ sky130_fd_pr__pfet_01v8_lvt 
xsc2 net-_sc1-pad1_ out net-_sc2-pad3_ net-_sc2-pad3_ sky130_fd_pr__nfet_01v8_lvt 
v3 net-_sc1-pad4_ gnd  dc 1
v4 ? gnd  dc 1
xsc5 net-_sc5-pad1_ ? net-_sc5-pad3_ net-_sc5-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc6 net-_sc5-pad1_ ? gnd gnd sky130_fd_pr__nfet_01v8_lvt 
.tran 0.01e-09 10e-09 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
